US06218418B1
2-(1,3-benzodioxol-5-yl)-N-(3-cyclopropyl-1H-pyrazol-5-yl)-acetamide
To a solution of 96.8 mg (0.537 mmol) of 2-(1,3-benzodioxol-5-yl)-acetic acid in 3 ml of dichloromethane 360 mg (0.720 mmol) of polystyrene supported dicyclohexylcarbodiimide (loading=2 mmol/g) and 40 mg (0.179 mmol) of tert-butyl-3-amino-5-cyclopropyl-1H-pyrazole-1-carboxylate were added. The mixture was maintained under stirring at room temperature for 96 hours and after that time filtered, washed several times with dichloromethane and evaporated to dryness. The residue was re-dissolved with 3 ml of trifluoroacetic acid 10% V/V in dichloromethane and maintained at room temperature for an hour. The solvent was then evaporated, the residue re-dissolved in dichloromethane and washed with a saturated solution of sodium hydrogenocarbonate. The organic layer was evaporated to dryness to give, after trituration with diethylether, 32 mg (63% yield) of the title compound.

reactant | 2-(1,3-benzodioxol-5-yl)-acetic acid | 0.537 mmol, 96.8 mg | O1COC2=C1C=CC(=C2)CC(=O)O | C9H8O4
reactant | dichloromethane | 0.720 mmol, 3 ml, 360 mg | ClCCl | CH2Cl2
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | tert-butyl-3-amino-5-cyclopropyl-1H-pyrazole-1-carboxylate | 0.179 mmol, 40 mg | C(C)(C)(C)OC(=O)N1N=C(C=C1C1CC1)N | C11H17N3O2
solvent | diethylether | C(C)OCC | C4H10O
product | 2-(1,3-benzodioxol-5-yl)-N-(3-cyclopropyl-1H-pyrazol-5-yl)-acetamide | 32 mg, 63% yield | O1COC2=C1C=CC(=C2)CC(=O)NC2=CC(=NN2)C2CC2 | C15H15N3O3
